US04293702
A mixture of 4-chloro-2-methoxybenzothiazole (3.00 g, 0.015 mole) and dimethyl sulfate (95 mg, 7.5×10-4 mole) was heated at 150° C. for 3 hours with stirring. After cooling, the reaction mass was dissolved in chloroform, and the chloroform layer was washed with an aqueous solution saturated with sodium carbonate and then with water. The solvent was removed under reduced pressure to obtain 2.99 g of 4-chloro-N-methylbenzothiazolone as white crystals. Yield 99.7%, purity 99.0%, m.p. 130°-132° C.

reactant | 4-chloro-2-methoxybenzothiazole | 0.015 mole, 3.00 g | ClC1=CC=CC2=C1N=C(S2)OC | C8H6ClNOS
reactant | dimethyl sulfate | 7.5×10-4 mole, 95 mg | S(=O)(=O)(OC)OC | C2H6O4S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-N-methylbenzothiazolone | 2.99 g, Yield 99.7% | ClC1=CC=CC2=C1N(CS2=O)C | C8H8ClNOS
